US08084448B2
N-{(1R*,2S*)-2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-cyclohexyl}-benzenesulfonamide
The title compound is prepared from 5-[4-((1S*,2R*)-2-aminocyclohexylmethyl)-2-benzyloxy-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and benzenesulfonyl chloride analogous to Example 205, steps B, C and D. MS (M−1)−=478; HPLC retention time=1.10 min. (Method A).

reactant | 5-[4-((1S*,2R*)-2-aminocyclohexylmethyl)-2-benzyloxy-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | N[C@H]1[C@@H](CCCC1)CC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C27H39N3O4SSi
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-{(1R*,2S*)-2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-cyclohexyl}-benzenesulfonamide | OC=1C=C(C[C@H]2[C@@H](CCCC2)NS(=O)(=O)C2=CC=CC=C2)C=CC1N1S(NC(C1)=O)(=O)=O | C21H25N3O6S2
